US06011044
Preparation of 1-(2-methyl-4-fluorophenyl)-4-[(3-hydroxy-propyl)amino]-6-trifluoromethoxypyrrolo[3,2-c]quinoline
1-(2-Methyl-4-fluorophenyl)-4-chloro-6-trifluoromethoxypyrrolo[3,2-c]quinoline(394 mg, 1.0 mmol) was dissolved in 3-amino-1-propanol(5 ml) in the pressure tube, and reacted at the same condition of Step 3 in the Example to obtain 460 mg of desired compound as solid in 83% of yield.

reactant | 1-(2-Methyl-4-fluorophenyl)-4-chloro-6-trifluoromethoxypyrrolo[3,2-c]quinoline | 1.0 mmol, 394 mg | CC1=C(C=CC(=C1)F)N1C=CC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)Cl | C19H11ClF4N2O
reactant | 3-amino-1-propanol | 5 ml | NCCCO | C3H9NO
product | 1-(2-methyl-4-fluorophenyl)-4-[(3-hydroxy-propyl)amino]-6-trifluoromethoxypyrrolo[3,2-c]quinoline | 460 mg | CC1=C(C=CC(=C1)F)N1C=CC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)NCCCO | C22H19F4N3O2
